US07750150B2
(7) Preparation of 2-[4-[2-(benzothiazol-2-ylthio)ethyl]piperazin-1-yl]-N-[2,6-dimethyl-4-trifluoromethyl-3-pyridyl]acetamide dihydrochloride
2-[4-[2-(benzothiazol-2-ylthio)ethyl]piperazin-1-yl]-N-[2,6-dimethyl-4-trifluoromethyl-3-pyridyl]acetamide (500 mg, 0.98 mmol) was dissolved in ethanol (10 mL), followed by the addition of pyridine hydrochloride (227 mg, 1.96 mmol). The reaction mixture was concentrated, and to the residue, ethanol (0.2 mL) and water (2 mL) were added. A precipitate was collected by filtration to obtain the title compound (295 mg, 55%) as a colorless crystalline powder.

reactant | 2-[4-[2-(benzothiazol-2-ylthio)ethyl]piperazin-1-yl]-N-[2,6-dimethyl-4-trifluoromethyl-3-pyridyl]acetamide | 0.98 mmol, 500 mg | S1C(=NC2=C1C=CC=C2)SCCN2CCN(CC2)CC(=O)NC=2C(=NC(=CC2C(F)(F)F)C)C | C23H26F3N5OS2
reactant | pyridine hydrochloride | 1.96 mmol, 227 mg | Cl.N1=CC=CC=C1
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 2-[4-[2-(benzothiazol-2-ylthio)ethyl]piperazin-1-yl]-N-[2,6-dimethyl-4-trifluoromethyl-3-pyridyl]acetamide dihydrochloride | 295 mg, 55% | Cl.Cl.S1C(=NC2=C1C=CC=C2)SCCN2CCN(CC2)CC(=O)NC=2C(=NC(=CC2C(F)(F)F)C)C | InChI=1S/C23H26F3N5OS2.2ClH/c1-15-13-17(23(24,25)26)21(16(2)27-15)29-20(32)14-31-9-7-30(8-10-31)11-12-33-22-28-18-5-3-4-6-19(18)34-22;;/h3-6,13H,7-12,14H2,1-2H3,(H,29,32);2*1H
